US06686353B1
Methyl [4-(3,3-diphenylpropyl)homopiperazine-1-yl]acetate (0.327 g, 0.89 mmol) was dissolved in a mixture of dioxane (3.1 mL). MeOH (1.1 mL) and 4N NaOH (0.22 mL). After stirring for 30 min. 5 more drops of 4N NaOH were added and stirring was, continued until hydrolysis of the methyl ester was complete. The mixture was concentrated in vacuo and the residue subjected to flash silica gel column chromatography (eluent: CH2Cl2/MeOH, 1/1, v/v) to give sodium [4-(3,3-diphenylpropyl)homopiperazine-1-yl]acetate (0.278 g) in 88% yield, TLC Rf=0.22 (10% CH3OH—CH2Cl2); RPLC tR=1.98 min (>85%), 220 nm (Method B); ESI/MS m/e 353.3 (M++H, C22H29N2O2).

reactant | Methyl [4-(3,3-diphenylpropyl)homopiperazine-1-yl]acetate | 0.89 mmol, 0.327 g | C1(=CC=CC=C1)C(CCN1CCN(CCC1)CC(=O)OC)C1=CC=CC=C1 | C23H30N2O2
reactant | MeOH | 1.1 mL | CO | CH4O
reactant | NaOH | 4N, 0.22 mL | [OH-].[Na+]
reactant | NaOH | 4N | [OH-].[Na+]
solvent | dioxane | 3.1 mL | O1CCOCC1 | C4H8O2
product | sodium [4-(3,3-diphenylpropyl)homopiperazine-1-yl]acetate | 0.278 g, 88% yield | C1(=CC=CC=C1)C(CCN1CCN(CCC1)CC(=O)[O-])C1=CC=CC=C1.[Na+] | InChI=1S/C22H28N2O2.Na/c25-22(26)18-24-14-7-13-23(16-17-24)15-12-21(19-8-3-1-4-9-19)20-10-5-2-6-11-20;/h1-6,8-11,21H,7,12-18H2,(H,25,26);/q;+1/p-1
